US06492399B1
(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine hemigalactarate (255.0 mg, 0.906 mmol) was basified with saturated K2CO3 solution (5 mL), treated with saturated NaCl solution (2 mL), and further basified with 50% NaOH solution (15 drops). The turbid mixture was extracted with CHCl3 (10×6 mL). The combined CHCl3 extracts were dried (MgSO4), filtered, concentrated by rotary evaporation, and dried under high vacuum (0.8 mm Hg) for 1 h to give (140.6 mg) (88.0%) of (4E)-N-methyl-5-(3-pyridyl)-4-penten-2-amine as a yellow oil. The oil was immediately dissolved in dry THF (7 mL, freshly distilled from sodium and benzophenone), and the resulting solution was treated at 0° C. with di-tert-butyl dicarbonate (191.5 mg, 0.878 mmol) under a nitrogen atmosphere. The resulting mixture was stirred and allowed to warm to ambient temperature over 16 h. The solution was concentrated by rotary evaporation and dried under high vacuum for 1 h producing a yellow oil (226.1 mg). The crude product was purified by column chromatography on silica gel (20 g, Merck 70-230 mesh) eluting with CHCl3—CH3OH (95:5, v/v). Selected fractions, containing the product (Rf 0.48), were combined, concentrated by rotary evaporation, and vacuum dried briefly at 1 mm Hg to give 217.9 mg (98.8%) of a yellow oil.

reactant | (4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine hemigalactarate | 0.906 mmol, 255.0 mg | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O.CNC(C)C\C=C\C=1C=NC=CC1.CNC(C)C\C=C\C=1C=NC=CC1
reactant | K2CO3 | 5 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | 2 mL | [Na+].[Cl-]
catalyst | NaOH | 15 drops | [OH-].[Na+]
product | (4E)-N-methyl-5-(3-pyridyl)-4-penten-2-amine | 140.6 mg, 88.0% | CNC(C)C\C=C\C=1C=NC=CC1 | C11H16N2
